US05710314
A mixture of 1.66 g of 2-(2-bromomethylphenyl)-3-fluoromethoxyacrylic acid methyl ester, 0.65 g of o-cresol, 1.38 g of pulverized potash and 0.07 g of 18-crown-6 in 15 ml of acetonitrile is stirred at room temperature for 24 hours. Water is then added, the reaction mixture is acidified with 1N hydrochloric acid and extraction is carried out with ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered and concentrated by evaporation. Chromatography on silica gel with hexane/ethyl acetate yields pure 3-fluoromethoxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester in the form of a viscous oil.

reactant | 2-(2-bromomethylphenyl)-3-fluoromethoxyacrylic acid methyl ester | 1.66 g | COC(C(=COCF)C1=C(C=CC=C1)CBr)=O | C12H12BrFO3
reactant | o-cresol | 0.65 g | C1(=CC=CC=C1O)C | C7H8O
reactant | potash | 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.07 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 3-fluoromethoxy-2-[2-(2-methylphenoxymethyl)phenyl]-acrylic acid methyl ester | COC(C(=COCF)C1=C(C=CC=C1)COC1=C(C=CC=C1)C)=O | C19H19FO4
